US20010006969A1
2-Chloro-4-cyclohexylamino-7-methylthieno[3,2-d] pyrimidine
In 3 ml of DMF was dissolved 300 mg (1.4 mmol) of 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine, and after 204 mg (2.1 mmol) of cyclohexylamine was added to the resulting solution, the mixture was stirred for 3 hours. Water was added to the reaction mixture, and crystals thus precipitated were filtered to give 379 mg (yield: 98.2%) of the title compound.

reactant | 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine | 1.4 mmol, 300 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | cyclohexylamine | 2.1 mmol, 204 mg | C1(CCCCC1)N | C6H13N
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-4-cyclohexylamino-7-methylthieno[3,2-d] pyrimidine | 379 mg, yield: 98.2% | ClC=1N=C(C2=C(N1)C(=CS2)C)NC2CCCCC2 | C13H16ClN3S
